US07449582B2
Step C: Preparation of 3-(2,6-dichloro-3-nitro-phenyl)-1-methyl-1H-quinolin-2-one
To a solution of 3-(2,6-dichloro-3-nitro-phenyl)-1H-quinolin-2-one (0.21 g, 0.6266 mmol) in DMF (5.0 mL) is added HNa (30.1 mg, 60%, 0.752 mmol) and IMe (120.1 mg, 0.846 mmol) at 0° C. After the mixture is stirred for two hours at 0° C., the mixture is diluted with EtOAc and washed with saturated K2CO3, brine and water. The organic layer is dried, filtered and concentrated to give crude product, which is purified by flash silica gel column, eluting with CH2Cl2 (100%) gradient to CH2Cl2/MeOH (2N NH3) (95/5), t give the titled intermediate as a solid (78 mg, 35.8%).

reactant | 3-(2,6-dichloro-3-nitro-phenyl)-1H-quinolin-2-one | 0.6266 mmol, 0.21 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C=1C(NC2=CC=CC=C2C1)=O | C15H8Cl2N2O3
reactant | IMe | 0.846 mmol, 120.1 mg | IC | CH3I
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2,6-dichloro-3-nitro-phenyl)-1-methyl-1H-quinolin-2-one | 78 mg, 35.8% | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C=1C(N(C2=CC=CC=C2C1)C)=O | C16H10Cl2N2O3
